US07625893B2
b) (3R,4R,5R)-3-Aminomethyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl) -phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester
7.128 mmol of triphenylphosphine are added to a solution of 5.940 mmol of (3S,4R,5R)-3-azidomethyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester in 20 ml of methanol, 20 ml of tetrahydrofuran, 5 ml of water and 3.56 ml of concentrated aqueous ammonia (25%) at room temperature. After overnight stirring, the reaction mixture is partitioned between tert-butyl methyl ether and 5:1 water/saturated aqueous sodium bicarbonate solution. The aqueous layer is extracted with tert-butyl methyl ether—the combined organic layers are washed successively with water and brine, dried with sodium sulfate and evaporated. The residue is purified by flash chromatography (SiO2 60F) to afford the title compound as a yellow oil. Rf=0.42 (dichloromethane-methanol-25% ammonia conc. 200:20:1); Rt=4.64 (gradient I).

reactant | triphenylphosphine | 7.128 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (3S,4R,5R)-3-azidomethyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl)-phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | 5.940 mmol | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)COC[C@H](COC)C)CN=[N+]=[N-] | C39H51N5O7
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 5 ml | O | H2O
solvent | ammonia | 3.56 ml | N | H3N
product | (3R,4R,5R)-3-Aminomethyl-4-[4-((S)-3-methoxy-2-methyl-propoxymethyl) -phenyl]-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)COC[C@H](COC)C)CN | C39H53N3O7
